US06686353B1
Preparation of 1-[3,3-Di(2-furyl)-3-hydroxypropyl]-4-[4-(methylsulfonyl)benzyl]homopiperazine (Compound No. 129)
To a solution of 2-furyl lithium prepared in 50 mL of THF using 3 mL of furan and 2 mL of 1.63 M n-butyllithium was added dropwise at 0° C., a 10 ml solution in THF of 99 mg of methyl 3-[4-{4-(methylsulfonyl)benzyl}homopiperazinyl]propionate. After stirring at 0° C. for 1 hour, the mixture was mixed with 50 mL of an aqueous saturated ammonium chloride, and extracted with 50 mL×2 of ethyl acetate. The extracts were combined, dried over anhydrous sodium sulfate, filtered, concentrated, and purified by column chromatography (silica gel, ethyl acetate) to give 62 mg of the titled compound.

reactant | 2-furyl lithium | O1C(=CC=C1)[Li]
reactant | furan | O1C=CC=C1 | C4H4O
reactant | n-butyllithium | 1.63 M, 2 mL | C(CCC)[Li]
reactant | methyl 3-[4-{4-(methylsulfonyl)benzyl}homopiperazinyl]propionate | 99 mg | CS(=O)(=O)C1=CC=C(CN2CCN(CCC2)CCC(=O)OC)C=C1 | C17H26N2O4S
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-[3,3-Di(2-furyl)-3-hydroxypropyl]-4-[4-(methylsulfonyl)benzyl]homopiperazine | 62 mg | O1C(=CC=C1)C(CCN1CCN(CCC1)CC1=CC=C(C=C1)S(=O)(=O)C)(O)C=1OC=CC1 | C24H30N2O5S
